US06410561B1
To a solution of anisole (3.3 ml, 30 mmol) in tetrachloroethylene (30 ml) was added methanesulfonic anhydride (5.75 g, 33 mmol) and the mixture was stirred under heating at 145° C. for 18 hr. Water was added to the reaction mixture and the mixture was extracted with diethyl ether. The organic layer was washed with saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and the obtained crystals were recrystallized twice from hexane-ethyl acetate to give 4-methylsulfonylanisole (505 mg, 9%, colorless crystals).

reactant | anisole | 30 mmol, 3.3 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | methanesulfonic anhydride | 33 mmol, 5.75 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | Water | O | H2O
solvent | tetrachloroethylene | 30 ml | ClC(=C(Cl)Cl)Cl | C2Cl4
product | 4-methylsulfonylanisole | 505 mg, 9% | CS(=O)(=O)C1=CC=C(C=C1)OC | C8H10O3S
